US07238813B2
4-(4-(Acetamido)phenylcarbonyl)-1,2-dinitrobenzene
A mixture of 3,4-dinitrobenzoyl chloride (4 mmol), acetoanilide (540 mg, 4 mmol), and AlCl3 (1.6 g) in CH2Cl2 was heated at 40° C. for 24 h. The slurry was washed with HCl (aq) and the product was extracted with ether. It was washed with K2CO3 (aq), dried, and evaporated. Purification by column-chromatography on silica-gel (hexane:AcOEt=1:3) provided 87 mg of the title compound; MS m/e 328 (M−1).

reactant | 3,4-dinitrobenzoyl chloride | 4 mmol | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1[N+](=O)[O-] | C7H3ClN2O5
reactant | acetoanilide | 4 mmol, 540 mg | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | AlCl3 | 1.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(4-(Acetamido)phenylcarbonyl)-1,2-dinitrobenzene | 87 mg | C(C)(=O)NC1=CC=C(C=C1)C(=O)C1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C15H11N3O6
